US08168794B2
Synthesis of (3aR,7aS)-benzyl 2-oxohexahydrooxazolo[4,5-c]pyridine-5(6H)-carboxylate
A solution of (3R,4R)-benzyl 3-(tert-butoxycarbonylamino)-4-(methylsulfonyloxy)piperidine-1-carboxylate in pyridine (0.16 M) was heated to 120° C. in the microwave for 10 minutes. The solution was then concentrated to almost dryness and the forming solid was filtered to give the desired product. The filtrate was further purified via silica gel column chromatography eluting with ethyl acetate (100%) to yield (3aR,7aS)-benzyl 2-oxohexahydrooxazolo[4,5-c]pyridine-5(6H)-carboxylate in 75% combined yield. LCMS (m/z): 277.1 (MH+), Rt=2.327 min.

reactant | (3R,4R)-benzyl 3-(tert-butoxycarbonylamino)-4-(methylsulfonyloxy)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC[C@H]1OS(=O)(=O)C)C(=O)OCC1=CC=CC=C1 | C19H28N2O7S
solvent | pyridine | 0.16 M | N1=CC=CC=C1 | C5H5N
product | (3aR,7aS)-benzyl 2-oxohexahydrooxazolo[4,5-c]pyridine-5(6H)-carboxylate | O=C1O[C@@H]2[C@@H](CN(CC2)C(=O)OCC2=CC=CC=C2)N1 | C14H16N2O4
